US05654316
3,4-Dichloro-beta-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid
3-(3,4-Dichlorophenyl)glutaric anhydride in CH2Cl2 (20 mL) at 0° C. was treated sequentially with N-methylaniline (0.518 g), triethylamine (0.489 g) and N,N-dimethylaminopyridine (trace). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was washed with 1N HCl (2×20 mL) and water (20 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (1.2 g).

reactant | 3-(3,4-Dichlorophenyl)glutaric anhydride | ClC=1C=C(C=CC1Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
reactant | N-methylaniline | 0.518 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 0.489 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-beta-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 1.2 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)NCC1=CC=CC=C1 | C18H17Cl2NO3
